US04654343
N-[3-(6-Chloro-3-pyridazinyl)phenyl]acetamide
A solution of 4.0 g of N-[3-(1,6-dihydro-6-oxo-3-pyridazinyl)phenyl]acetamide in 100 ml of phosphorus oxychloride was heated at 55°-65° C. for 1.5 hours and then the excess phosphorus oxychloride was removed in vacuo. The residue was dissolved in dichloromethane and the solution poured onto 200 g of crushed ice. After stirring for 30 minutes the acidic mixture was neutralized with aqueous sodium bicarbonate. The mixture was filtered, giving 0.8 g of solid. The dichloromethane layer of the filtrate was separated, dried and evaporated, giving 2.93 g of solid. The two solids were combined (3.73 g) and a 2.9 g portion chromatographed on a silica gel column, eluting with dichloromethane-methanol (95:5). The fractions containing product were combined, evaporated and the solid (1.5 g) recrystallized from dichloromethane-acetone, to give the desired compound as tan crystals, mp 203°-205° C. (dec.).

reactant | N-[3-(1,6-dihydro-6-oxo-3-pyridazinyl)phenyl]acetamide | 4.0 g | O=C1C=CC(=NN1)C=1C=C(C=CC1)NC(C)=O | C12H11N3O2
reactant | phosphorus oxychloride | 100 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | N-[3-(6-Chloro-3-pyridazinyl)phenyl]acetamide | 0.8 g | ClC1=CC=C(N=N1)C=1C=C(C=CC1)NC(C)=O | C12H10ClN3O
